US04188341
2.0 g (0.0161 mole) of 2,6-dimethyl-cyclohex-2-en-1-one, 50 ml of toluene, 1.8 g (0.024 mole) of 2-methoxyethylamine and 0.5 g of palladium on charcoal (5%) are heated with a starting pressure of 17 bars (7 bars propylene and 10 bars nitrogen) for 10 hours at 180° C. After cooling, the catalyst is filtered off and the filter residue is washed with ether and toluene. The solvent is evaporated off to leave 1.0 g of crude N-(2-methoxyethyl)-2,6-dimethylaniline, from which is obtained, by distillation in high vacuum, 0.4 g (13% of theory) of pure N-(2-methoxyethyl)-2,6-dimethylaniline; b.p. 61°-62° C./ 0.1 Torr.

reactant | 2,6-dimethyl-cyclohex-2-en-1-one | 0.0161 mole, 2.0 g | CC=1C(C(CCC1)C)=O | C8H12O
reactant | 2-methoxyethylamine | 0.024 mole, 1.8 g | COCCN | C3H9NO
reactant | propylene | C=CC | C3H6
catalyst | palladium on charcoal | 0.5 g | [Pd] | Pd
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | N-(2-methoxyethyl)-2,6-dimethylaniline | 1.0 g | COCCNC1=C(C=CC=C1C)C | C11H17NO
